US04666915
A mixture of 1,6-dihydro-2-[2-(2-methylpropoxy)anilino]-6-oxo-5-pyrimidinecarboxylic acid (20 g) and sodium carbonate (7.0 g) in ethanol (100 ml) and water (100 ml) is heated until the solution is completed. After allowing to stand the solution overnight, the precipitate is collected by filtration, washed with water and dried to give sodium 1,6-dihydro-2-[2-(2-methylpropoxy)anilino]-6-oxo-5-pyrimidinecarboxylate (12.4 g). M.p. 231°-233° C.

reactant | 1,6-dihydro-2-[2-(2-methylpropoxy)anilino]-6-oxo-5-pyrimidinecarboxylic acid | 20 g | CC(COC1=C(NC=2NC(C(=CN2)C(=O)O)=O)C=CC=C1)C | C15H17N3O4
reactant | sodium carbonate | 7.0 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | sodium 1,6-dihydro-2-[2-(2-methylpropoxy)anilino]-6-oxo-5-pyrimidinecarboxylate | 12.4 g | CC(COC1=C(NC=2NC(C(=CN2)C(=O)[O-])=O)C=CC=C1)C.[Na+] | InChI=1S/C15H17N3O4.Na/c1-9(2)8-22-12-6-4-3-5-11(12)17-15-16-7-10(14(20)21)13(19)18-15;/h3-7,9H,8H2,1-2H3,(H,20,21)(H2,16,17,18,19);/q;+1/p-1
